// Generated for: spectre
// Generated on: Mar  5 16:38:57 2017
// Design library name: project_lib
// Design cell name: TEST_COMPARATOR
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
include "/usr/public.2/ee115c/cadence-labs/gpdk090_v3.4/models/spectre/gpdk090.scs" section=NN

// Library name: project_lib
// Cell name: INV
// View name: schematic
subckt INV GND VDD Vin Vout
    NM0 (Vout Vin GND GND) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1)
    PM0 (Vout Vin VDD VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1)
ends INV
// End of subcircuit definition.

// Library name: project_lib
// Cell name: AND
// View name: schematic
subckt AND A B GND OUT VDD
    NM1 (OUT net13 GND GND) gpdk090_nmos1v w=(630n) l=100n as=176.4f \
        ad=176.4f ps=1.19u pd=1.19u m=(1)*(1)
    NM0 (OUT B A GND) gpdk090_nmos1v w=(630n) l=100n as=176.4f ad=176.4f \
        ps=1.19u pd=1.19u m=(1)*(1)
    PM0 (OUT net13 A VDD) gpdk090_pmos1v w=(630n) l=100n as=176.4f \
        ad=176.4f ps=1.19u pd=1.19u m=(1)*(1)
    I0 (GND VDD B net13) INV
ends AND
// End of subcircuit definition.

// Library name: project_lib
// Cell name: NOR
// View name: schematic
subckt NOR A B GND OUT VDD
    NM1 (OUT B GND GND) gpdk090_nmos1v w=(430n) l=100n as=120.4f ad=120.4f \
        ps=990n pd=990n m=(1)*(1)
    NM0 (OUT A GND GND) gpdk090_nmos1v w=(430n) l=100n as=120.4f ad=120.4f \
        ps=990n pd=990n m=(1)*(1)
    PM1 (OUT B net15 VDD) gpdk090_pmos1v w=(1.3u) l=100n as=364f ad=364f \
        ps=1.86u pd=1.86u m=(1)*(1)
    PM0 (net15 A VDD VDD) gpdk090_pmos1v w=(1.3u) l=100n as=364f ad=364f \
        ps=1.86u pd=1.86u m=(1)*(1)
ends NOR
// End of subcircuit definition.

// Library name: project_lib
// Cell name: ANDx3
// View name: schematic
subckt ANDx3 A B C GND OUT VDD
    NM2 (net17 C GND GND) gpdk090_nmos1v w=(1.29u) l=100n as=361.2f \
        ad=361.2f ps=1.85u pd=1.85u m=(1)*(1)
    NM1 (net16 B net17 GND) gpdk090_nmos1v w=(1.29u) l=100n as=361.2f \
        ad=361.2f ps=1.85u pd=1.85u m=(1)*(1)
    NM0 (net09 A net16 GND) gpdk090_nmos1v w=(1.29u) l=100n as=361.2f \
        ad=361.2f ps=1.85u pd=1.85u m=(1)*(1)
    PM2 (net09 C VDD VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1)
    PM1 (net09 B VDD VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1)
    PM0 (net09 A VDD VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1)
    I3 (GND VDD net09 OUT) INV
ends ANDx3
// End of subcircuit definition.

// Library name: project_lib
// Cell name: ANDx4
// View name: schematic
subckt ANDx4 A B C D GND OUT VDD
    I3 (GND VDD net033 OUT) INV
    PM3 (net033 D VDD VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1)
    PM2 (net033 C VDD VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1)
    PM1 (net033 B VDD VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1)
    PM0 (net033 A VDD VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1)
    NM3 (net036 D GND GND) gpdk090_nmos1v w=(1.72u) l=100n as=481.6f \
        ad=481.6f ps=2.28u pd=2.28u m=(1)*(1)
    NM2 (net038 C net036 GND) gpdk090_nmos1v w=(1.72u) l=100n as=481.6f \
        ad=481.6f ps=2.28u pd=2.28u m=(1)*(1)
    NM0 (net033 A net037 GND) gpdk090_nmos1v w=(1.72u) l=100n as=481.6f \
        ad=481.6f ps=2.28u pd=2.28u m=(1)*(1)
    NM1 (net037 B net038 GND) gpdk090_nmos1v w=(1.72u) l=100n as=481.6f \
        ad=481.6f ps=2.28u pd=2.28u m=(1)*(1)
ends ANDx4
// End of subcircuit definition.

// Library name: project_lib
// Cell name: ANDx5
// View name: schematic
subckt ANDx5 A B C D E GND OUT VDD
    PM4 (net043 E VDD VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1)
    PM3 (net043 D VDD VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1)
    PM2 (net043 C VDD VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1)
    PM1 (net043 B VDD VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1)
    PM0 (net043 A VDD VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1)
    NM4 (net046 E GND GND) gpdk090_nmos1v w=(2.15u) l=100n as=602f ad=602f \
        ps=2.71u pd=2.71u m=(1)*(1)
    NM3 (net047 D net046 GND) gpdk090_nmos1v w=(2.15u) l=100n as=602f \
        ad=602f ps=2.71u pd=2.71u m=(1)*(1)
    NM1 (net049 B net048 GND) gpdk090_nmos1v w=(2.15u) l=100n as=602f \
        ad=602f ps=2.71u pd=2.71u m=(1)*(1)
    NM2 (net048 C net047 GND) gpdk090_nmos1v w=(2.15u) l=100n as=602f \
        ad=602f ps=2.71u pd=2.71u m=(1)*(1)
    NM0 (net043 A net049 GND) gpdk090_nmos1v w=(2.15u) l=100n as=602f \
        ad=602f ps=2.71u pd=2.71u m=(1)*(1)
    I3 (GND VDD net043 OUT) INV
ends ANDx5
// End of subcircuit definition.

// Library name: project_lib
// Cell name: ORx5
// View name: schematic
subckt ORx5 A B C D E GND OUT VDD
    NM4 (net010 E GND GND) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1)
    NM3 (net010 D GND GND) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1)
    NM2 (net010 C GND GND) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1)
    NM1 (net010 B GND GND) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1)
    NM0 (net010 A GND GND) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1)
    PM4 (net010 E net28 VDD) gpdk090_pmos1v w=(2.15u) l=100n as=602f \
        ad=602f ps=2.71u pd=2.71u m=(1)*(1)
    PM3 (net31 A VDD VDD) gpdk090_pmos1v w=(2.15u) l=100n as=602f ad=602f \
        ps=2.71u pd=2.71u m=(1)*(1)
    PM2 (net28 D net29 VDD) gpdk090_pmos1v w=(2.15u) l=100n as=602f \
        ad=602f ps=2.71u pd=2.71u m=(1)*(1)
    PM1 (net29 C net30 VDD) gpdk090_pmos1v w=(2.15u) l=100n as=602f \
        ad=602f ps=2.71u pd=2.71u m=(1)*(1)
    PM0 (net30 B net31 VDD) gpdk090_pmos1v w=(2.15u) l=100n as=602f \
        ad=602f ps=2.71u pd=2.71u m=(1)*(1)
    I0 (GND VDD net010 OUT) INV
ends ORx5
// End of subcircuit definition.

// Library name: project_lib
// Cell name: COMPARATOR
// View name: schematic
subckt COMPARATOR A0 A1 A2 A3 A4 B0 B1 B2 B3 B4 GND OUT VDD
    I26 (GND VDD B3 net58) INV
    I28 (GND VDD A3 net59) INV
    I38 (GND VDD B0 net48) INV
    I36 (GND VDD A1 net51) INV
    I30 (GND VDD B2 net56) INV
    I32 (GND VDD A2 net54) INV
    I34 (GND VDD B1 net52) INV
    I1 (GND VDD B4 net62) INV
    I0 (GND VDD A4 net61) INV
    I47 (net71 net38 GND net060 VDD) AND
    I29 (net59 B3 GND net39 VDD) AND
    I27 (net58 A3 GND net38 VDD) AND
    I37 (net51 B1 GND net35 VDD) AND
    I39 (A0 net48 GND net42 VDD) AND
    I10 (net62 A4 GND net40 VDD) AND
    I9 (net61 B4 GND net41 VDD) AND
    I35 (net52 A1 GND net34 VDD) AND
    I31 (net56 A2 GND net36 VDD) AND
    I33 (net54 B2 GND net37 VDD) AND
    I45 (net34 net35 GND net67 VDD) NOR
    I44 (net37 net36 GND net68 VDD) NOR
    I42 (net41 net40 GND net71 VDD) NOR
    I43 (net38 net39 GND net69 VDD) NOR
    I48 (net71 net69 net36 GND net063 VDD) ANDx3
    I49 (net71 net69 net68 net34 GND net059 VDD) ANDx4
    I50 (net42 net67 net68 net69 net71 GND net062 VDD) ANDx5
    I51 (net40 net060 net063 net059 net062 GND OUT VDD) ORx5
ends COMPARATOR
// End of subcircuit definition.

// Library name: project_lib
// Cell name: TEST_COMPARATOR
// View name: schematic
I0 (vdd! vdd! vdd! 0 0 vdd! vdd! vdd! 0 0 0 OUT vdd!) COMPARATOR
include "./_graphical_stimuli.scs"
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=1n write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub
