// Generated for: spectre
// Generated on: Mar  7 18:41:37 2017
// Design library name: project_lib
// Design cell name: TEST_COMPARATOR
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
include "/usr/public.2/ee115c/cadence-labs/gpdk090_v3.4/models/spectre/gpdk090.scs" section=NN

// Library name: project_lib
// Cell name: INV
// View name: schematic
subckt INV GND VDD Vin Vout
    NM0 (Vout Vin GND GND) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1)
    PM0 (Vout Vin VDD VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1)
ends INV
// End of subcircuit definition.

// Library name: project_lib
// Cell name: NAND
// View name: schematic
subckt NAND A B GND OUT VDD
    NM0 (OUT A net45 GND) gpdk090_nmos1v w=(860n) l=100n as=240.8f \
        ad=240.8f ps=1.42u pd=1.42u m=(1)*(1)
    NM1 (net45 B GND GND) gpdk090_nmos1v w=(860n) l=100n as=240.8f \
        ad=240.8f ps=1.42u pd=1.42u m=(1)*(1)
    PM0 (OUT A VDD VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1)
    PM1 (OUT B VDD VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1)
ends NAND
// End of subcircuit definition.

// Library name: project_lib
// Cell name: NOR
// View name: schematic
subckt NOR A B GND OUT VDD
    NM1 (OUT B GND GND) gpdk090_nmos1v w=(430n) l=100n as=120.4f ad=120.4f \
        ps=990n pd=990n m=(1)*(1)
    NM0 (OUT A GND GND) gpdk090_nmos1v w=(430n) l=100n as=120.4f ad=120.4f \
        ps=990n pd=990n m=(1)*(1)
    PM1 (OUT B net15 VDD) gpdk090_pmos1v w=(1.3u) l=100n as=364f ad=364f \
        ps=1.86u pd=1.86u m=(1)*(1)
    PM0 (net15 A VDD VDD) gpdk090_pmos1v w=(1.3u) l=100n as=364f ad=364f \
        ps=1.86u pd=1.86u m=(1)*(1)
ends NOR
// End of subcircuit definition.

// Library name: project_lib
// Cell name: NANDx3
// View name: schematic
subckt NANDx3 A B C GND OUT VDD
    PM2 (OUT C VDD VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1)
    PM1 (OUT B VDD VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1)
    PM0 (OUT A VDD VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1)
    NM2 (net65 C GND GND) gpdk090_nmos1v w=(1.29u) l=100n as=361.2f \
        ad=361.2f ps=1.85u pd=1.85u m=(1)*(1)
    NM1 (net66 B net65 GND) gpdk090_nmos1v w=(1.29u) l=100n as=361.2f \
        ad=361.2f ps=1.85u pd=1.85u m=(1)*(1)
    NM0 (OUT A net66 GND) gpdk090_nmos1v w=(1.29u) l=100n as=361.2f \
        ad=361.2f ps=1.85u pd=1.85u m=(1)*(1)
ends NANDx3
// End of subcircuit definition.

// Library name: project_lib
// Cell name: NANDx4
// View name: schematic
subckt NANDx4 A B C D GND OUT VDD
    PM3 (OUT D VDD VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1)
    PM2 (OUT C VDD VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1)
    PM1 (OUT B VDD VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1)
    PM0 (OUT A VDD VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1)
    NM3 (net83 D GND GND) gpdk090_nmos1v w=(1.72u) l=100n as=481.6f \
        ad=481.6f ps=2.28u pd=2.28u m=(1)*(1)
    NM2 (net84 C net83 GND) gpdk090_nmos1v w=(1.72u) l=100n as=481.6f \
        ad=481.6f ps=2.28u pd=2.28u m=(1)*(1)
    NM0 (OUT A net85 GND) gpdk090_nmos1v w=(1.72u) l=100n as=481.6f \
        ad=481.6f ps=2.28u pd=2.28u m=(1)*(1)
    NM1 (net85 B net84 GND) gpdk090_nmos1v w=(1.72u) l=100n as=481.6f \
        ad=481.6f ps=2.28u pd=2.28u m=(1)*(1)
ends NANDx4
// End of subcircuit definition.

// Library name: project_lib
// Cell name: NANDx5
// View name: schematic
subckt NANDx5 A B C D E GND OUT VDD
    PM4 (OUT E VDD VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1)
    PM3 (OUT D VDD VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1)
    PM2 (OUT C VDD VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1)
    PM1 (OUT B VDD VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1)
    PM0 (OUT A VDD VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1)
    NM4 (net102 E GND GND) gpdk090_nmos1v w=(2.15u) l=100n as=602f ad=602f \
        ps=2.71u pd=2.71u m=(1)*(1)
    NM3 (net99 D net102 GND) gpdk090_nmos1v w=(2.15u) l=100n as=602f \
        ad=602f ps=2.71u pd=2.71u m=(1)*(1)
    NM1 (net100 B net101 GND) gpdk090_nmos1v w=(2.15u) l=100n as=602f \
        ad=602f ps=2.71u pd=2.71u m=(1)*(1)
    NM2 (net101 C net99 GND) gpdk090_nmos1v w=(2.15u) l=100n as=602f \
        ad=602f ps=2.71u pd=2.71u m=(1)*(1)
    NM0 (OUT A net100 GND) gpdk090_nmos1v w=(2.15u) l=100n as=602f ad=602f \
        ps=2.71u pd=2.71u m=(1)*(1)
ends NANDx5
// End of subcircuit definition.

// Library name: project_lib
// Cell name: COMPARATOR_S
// View name: schematic
subckt COMPARATOR_S A0 A1 A2 A3 A4 B0 B1 B2 B3 B4 GND OUT VDD
    I26 (GND VDD A3 net0140) INV
    I28 (GND VDD B3 net0141) INV
    I38 (GND VDD A0 net0135) INV
    I36 (GND VDD B1 net0137) INV
    I72 (GND VDD net0111 net063) INV
    I30 (GND VDD A2 net0138) INV
    I32 (GND VDD B2 net0139) INV
    I34 (GND VDD A1 net0136) INV
    I1 (GND VDD A4 net0142) INV
    I0 (GND VDD B4 net0143) INV
    I67 (net0117 net0113 GND net0132 VDD) NAND
    I45 (net0112 net0123 GND net0130 VDD) NOR
    I44 (net0125 net0114 GND net0115 VDD) NOR
    I42 (net0128 net0111 GND net0117 VDD) NOR
    I43 (net0113 net0127 GND net0116 VDD) NOR
    I61 (A1 net0137 GND net0123 VDD) NOR
    I64 (B3 net0140 GND net0113 VDD) NOR
    I63 (B4 net0142 GND net0111 VDD) NOR
    I58 (A4 net0143 GND net0128 VDD) NOR
    I59 (A3 net0141 GND net0127 VDD) NOR
    I66 (B1 net0136 GND net0112 VDD) NOR
    I62 (net0135 B0 GND net0129 VDD) NOR
    I65 (B2 net0138 GND net0114 VDD) NOR
    I60 (A2 net0139 GND net0125 VDD) NOR
    I68 (net0117 net0116 net0114 GND net0144 VDD) NANDx3
    I69 (net0117 net0116 net0115 net0112 GND net0131 VDD) NANDx4
    I70 (net0129 net0130 net0115 net0116 net0117 GND net0134 VDD) NANDx5
    I71 (net063 net0132 net0144 net0131 net0134 GND OUT VDD) NANDx5
ends COMPARATOR_S
// End of subcircuit definition.

// Library name: project_lib
// Cell name: TEST_COMPARATOR
// View name: schematic
I3 (0 vdd! 0 0 vdd! 0 vdd! vdd! 0 0 0 OUT vdd!) COMPARATOR_S
include "./_graphical_stimuli.scs"
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=1u write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub
